US08426449B2
Step 5: {3-[2-({Acetyl-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethyl]-amino}-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid
To {3-[2-({acetyl-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethyl]-amino}-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester (0.094 g, 0.17 mmol) in THF (2 mL) was added 1N aqueous lithium hydroxide (2 mL), and the reaction was stirred at room temperature until no starting material was seen by analytical LCMS. The mixture was acidified with 1N aqueous HCl and extracted three times with EtOAc. The combined organic layers were dried and concentrated, and the residue was purified by preparative HPLC to give the title compound. M+H=529.

reactant | {3-[2-({acetyl-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethyl]-amino}-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid methyl ester | 0.17 mmol, 0.094 g | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN(C(CC1=CC=C(C=C1)F)(C)C)C(C)=O)=O | C28H29BrFNO4
reactant | lithium hydroxide | 1N, 2 mL | [OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | {3-[2-({Acetyl-[2-(4-fluoro-phenyl)-1,1-dimethyl-ethyl]-amino}-methyl)-4-bromo-phenoxy]-phenyl}-acetic acid | C(C)(=O)N(C(CC1=CC=C(C=C1)F)(C)C)CC1=C(OC=2C=C(C=CC2)CC(=O)O)C=CC(=C1)Br | C27H27BrFNO4
